US05244889
Trans-N-[(3R)-6-(pivaloylthiomethyl)-5-oxo-1-thia-4-azacyclotridecan-3-yl-carbonyl]-4-hydroxy-L-proline benzyl ester (0.30 g, 0.05 mmol) is dissolved in nitrogen degassed tetrahydrofuran (1 ml) and water (0.5 ml). Lithium hydroxide monohydrate (0.006 g, 0.15 mmol) is added and the mixture is stirred at room temperature for 2.5 hours. The mixture is poured into 1N hydrochloric acid and extracted with ethyl acetate (2×10 ml). The combined organic layers are dried (MgSO4) and the solvent is evaporated. The product is triturated from diethyl ether to give trans N-[[(3R)-6-mercaptomethyl-5-oxo-1-thia-4-azacyclotridecan-3-yl]-carbonyl]-4-hydroxy-L-proline, m.p. 124°-130° C.

reactant | Trans-N-[(3R)-6-(pivaloylthiomethyl)-5-oxo-1-thia-4-azacyclotridecan-3-yl-carbonyl]-4-hydroxy-L-proline benzyl ester | 0.05 mmol, 0.30 g | C(C1=CC=CC=C1)OC([C@H]1N(C[C@@H](C1)O)C(=O)[C@@H]1CSCCCCCCCC(C(N1)=O)CSC(C(C)(C)C)=O)=O | C30H44N2O6S2
reactant | Lithium hydroxide monohydrate | 0.15 mmol, 0.006 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
product | trans N-[[(3R)-6-mercaptomethyl-5-oxo-1-thia-4-azacyclotridecan-3-yl]-carbonyl]-4-hydroxy-L-proline | SCC1C(N[C@@H](CSCCCCCCC1)C(=O)N1[C@H](C(=O)O)C[C@H](C1)O)=O | C18H30N2O5S2
